US04764519
(c) 3-Nitro-5-(pyrid-3-ylmethyl)-2-pyridone
5-(Pyrid-3-ylmethyl)-2-pyridone (10 g) was added to concentrated sulphuric acid (20 ml) with cooling and stirring. Fuming nitric acid (4.5 ml) was then added over 10 mins. with cooling (ice-bath), allowed to warm to room temperature overnight and then poured on to ice (200 ml). Concentrated ammonium hydroxide solution was added to bring the pH to 8, when the product precipitated from solution. The solid was filtered off and recrystallised from methanol to give the title compound (7.04 g), m.p. 216°-7° C.

reactant | 5-(Pyrid-3-ylmethyl)-2-pyridone | 10 g | N1=CC(=CC=C1)CC=1C=CC(NC1)=O | C11H10N2O
reactant | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 4.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 3-Nitro-5-(pyrid-3-ylmethyl)-2-pyridone | 7.04 g | [N+](=O)([O-])C=1C(NC=C(C1)CC=1C=NC=CC1)=O | C11H9N3O3
